US08217065B2
E. 6-[5-(4-Chlorophenyl)-4-methyloxazol-2-yl]-2-(2,6-dichlorophenyl)-1H-benzimidazole
A mixture of 2-(2,6-dichlorophenyl)-3H-benzimidazole-5-carboxylic acid [2-(4-chlorophenyl)-1-methyl-2-oxoethyl]-amide (480 mg, 1.02 mmol) and Burgess Reagent (848 mg, 4.06 mmol) in THF (10 mL) was heated in a microwave apparatus at 150° C. for 30 min. The mixture was poured into ethyl acetate and extracted with water and brine. The organic layer was dried, filtered, and the solvent removed under reduced pressure. The residual oil was triturated with acetonitrile to afford the title compound. H1-NMR (DMSO-d6): δ 8.40 (s, broad, 0.5H), 8.22 (s, broad, 0.5H), 8.0 (m, 1H), 7.72 (m, 8H), 2.47 (s, 3H). MS: m/z 455.9 (M+1); High resolution MS (M+H): theory: 454.0281, measured: 454.0279.

reactant | 2-(2,6-dichlorophenyl)-3H-benzimidazole-5-carboxylic acid [2-(4-chlorophenyl)-1-methyl-2-oxoethyl]-amide | 1.02 mmol, 480 mg | ClC1=CC=C(C=C1)C(C(C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1)=O | C23H16Cl3N3O2
reactant | Burgess Reagent | 4.06 mmol, 848 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-[5-(4-Chlorophenyl)-4-methyloxazol-2-yl]-2-(2,6-dichlorophenyl)-1H-benzimidazole | ClC1=CC=C(C=C1)C1=C(N=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=CC=C2Cl)Cl)C1)C | C23H14Cl3N3O
